US08017601B2
6-(isoquinolin-5-yl)-N-(thiazol-2-yl)-1-naphthamide
6-(isoquinolin-5-yl)-1-naphthoic acid (55 mg, 0.18 mmol), 2-aminothiazole (24 mg, 0.23 mmol), DIPEA (0.048 mL, 0.27 mmol) and HATU (0.1 g, 0.27 mmol) were stirred in CHCl3 (1 mL) at room temperature overnight. The solid formed was filtered, rinsed with CHCl3, MeOH and dried under vacuum to give the titled compound as a solid. MS (ESI pos. ion) m/z: 382. (M+H). Calc'd Exact Mass for C23H15N3OS: 381.

reactant | 6-(isoquinolin-5-yl)-1-naphthoic acid | 0.18 mmol, 55 mg | C1=NC=CC2=C(C=CC=C12)C=1C=C2C=CC=C(C2=CC1)C(=O)O | C20H13NO2
reactant | 2-aminothiazole | 0.23 mmol, 24 mg | NC=1SC=CN1 | C3H4N2S
reactant | DIPEA | 0.27 mmol, 0.048 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.27 mmol, 0.1 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CHCl3 | 1 mL | C(Cl)(Cl)Cl | CHCl3
product | 6-(isoquinolin-5-yl)-N-(thiazol-2-yl)-1-naphthamide | C1=NC=CC2=C(C=CC=C12)C=1C=C2C=CC=C(C2=CC1)C(=O)NC=1SC=CN1 | C23H15N3OS
